US07981903B2
A suspension of 6-(methyloxy)-7-nitro-2-(1-propyl-4-piperidinyl)-1,2,3,4-tetrahydroisoquinoline (1.43 g, 4.35 mmol), hydrazine hydrate (1.0 mL, 30.5 mmol), iron(III)chloride (0.180 g, 1.09 mmol), activated carbon (2 g), and methanol (50 mL) was maintained at 65° C. for 12 hours, cooled, and filtered through celite (rinsed with additional methanol). Filtrates were concentrated, redissolved in ethyl acetate, and washed twice with saturated aqueous sodium chloride and sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered, and concentrated to afford 6-(methyloxy)-2-(1-propyl-4-piperidinyl)-1,2,3,4-tetrahydro-7-isoquinolinamine (0.550 g, 42%). 1H NMR (400 MHz, CDCl3) δ ppm 6.49 (s, 1 H), 6.37 (s, 1 H), 3.80 (s, 3 H), 3.64 (s, 4 H), 2.99-3.15 (m, 2 H), 2.70-2.85 (m, 4 H), 2.49 (s, 1 H), 2.33 (s, 2 H), 2.01 (s, 2 H), 1.89 (s, 2 H), 1.77 (s, 2 H), 1.56 (s, 2 H), 0.91 (t, J=7.33 H, 3 H).

reactant | 6-(methyloxy)-7-nitro-2-(1-propyl-4-piperidinyl)-1,2,3,4-tetrahydroisoquinoline | 4.35 mmol, 1.43 g | COC=1C=C2CCN(CC2=CC1[N+](=O)[O-])C1CCN(CC1)CCC | C18H27N3O3
reactant | hydrazine hydrate | 30.5 mmol, 1.0 mL | O.NN
catalyst | iron(III)chloride | 1.09 mmol, 0.180 g | [Fe](Cl)(Cl)Cl
solvent | methanol | 50 mL | CO | CH4O
product | 6-(methyloxy)-2-(1-propyl-4-piperidinyl)-1,2,3,4-tetrahydro-7-isoquinolinamine | 0.550 g, 42% | COC=1C=C2CCN(CC2=CC1N)C1CCN(CC1)CCC | C18H29N3O
